US08486979B2
5-(imidazo[1,5-a]pyridin-6-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using imidazo[1,2-a]pyridine-6-carboxylic acid (Maybridge) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.67 (ddd, J=8.1, 4.8, 1.0 Hz, 1 H), 7.76 (d, J=1.4 Hz, 1 H), 7.78-7.92 (m, 2 H), 8.21 (s, 1 H), 8.46 (dt, J=8.2, 1.8 Hz, 1 H), 8.83 (dd, J=4.7, 1.7 Hz, 1 H), 9.27 (dd, J=2.2, 0.8 Hz, 1 H), 9.69 (dd, J=1.7, 1.0 Hz, 1 H) ppm; MS (DCI/NH3) m/z 264 (M+H)+.

reactant | imidazo[1,2-a]pyridine-6-carboxylic acid | N=1C=CN2C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(imidazo[1,5-a]pyridin-6-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | C=1N=CN2C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C14H9N5O
